US09212164B2
Step 2. 1-Amino-N-methoxy-N-(2,2,2-trifluoroethyl)cyclopropanecarboxamide hydrochloride
A dry 50 mL 3 neck round bottom flask was charged with tert-butyl (1-(methoxycarbamoyl)cyclopropyl)carbamate (0.82 g, 3.56 mmol) and 20 mL of dry DMF. The reaction mixture was cooled in an ice-water bath and 60% NaH (0.16 g, 3.92 mmol) was added in one portion. The reaction mixture was stirred at RT for 1.5 h after which time, 2,2,2-trifluoroethyl trifluoromethanesulfonate (0.87 g, 3.74 mmol) was added neat drop wise and the resulting reaction mixture was stirred at RT for 18 h. The reaction mixture was added to H2O and extracted 3× with ether. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated to give 0.92 g of crude product as a white solid. This material was taken up in 5 mL of DCM and cooled in an ice water bath. 2M HCl in ether (4 mL) was added and the reaction mixture was allowed to warm toward RT and stirred for 18 h. The reaction mixture was evaporated to give a solid. This material was washed several times with 10% ether/hex to afford 0.70 g of the title compound. This material was carried forward without further purification.

reactant | tert-butyl (1-(methoxycarbamoyl)cyclopropyl)carbamate | 3.56 mmol, 0.82 g | CONC(=O)C1(CC1)NC(OC(C)(C)C)=O | C10H18N2O4
reactant | NaH | 3.92 mmol, 0.16 g | [H-].[Na+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 3.74 mmol, 0.87 g | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | HCl | 2M | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 4 mL | CCOCC | C4H10O
solvent | H2O | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-Amino-N-methoxy-N-(2,2,2-trifluoroethyl)cyclopropanecarboxamide hydrochloride | 0.70 g | Cl.NC1(CC1)C(=O)N(CC(F)(F)F)OC | InChI=1S/C7H11F3N2O2.ClH/c1-14-12(4-7(8,9)10)5(13)6(11)2-3-6;/h2-4,11H2,1H3;1H
